US04224317
To a solution containing 22.6 g. (0.2 mole) of 2-thenylamine, 44.4 g. (0.44 mole) of triethylamine and 50.0 g. of acetonitrile dried over molecular sieves there is added 46.2 g. (0.2 mole) of 1,3-bis-chloromethyl-1,1,3,3-tetramethyl-disiloxane. The resulting homogenized solution is allowed to stand for 3 days and then heated in a bath at 90° C. for 36 hours. After cooling the mixture is then equiliberated between toluene and water, the organic phase is then washed with two more portions of water and concentrated to give 61.5 g. of a crude oil. Vacuum distillation through a Vigreux column gives 4-(2-thienylmethyl)-2,2,6,6-tetra-methyl-1-oxa-4-aza-2,6-disilacyclohexane; b.p. 78° to 80° C. at 0.1 to 0.11 mm.

reactant | 2-thenylamine | 0.2 mole | C1(=CC=CS1)CN | C5H7NS
reactant | triethylamine | 0.44 mole | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis-chloromethyl-1,1,3,3-tetramethyl-disiloxane | 0.2 mole | ClC[Si](O[Si](C)(C)CCl)(C)C | C6H16Cl2OSi2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(2-thienylmethyl)-2,2,6,6-tetra-methyl-1-oxa-4-aza-2,6-disilacyclohexane | S1C(=CC=C1)CN1C[Si](O[Si](C1)(C)C)(C)C | C11H21NOSSi2
